US05597832
3b. 5-Ethyl-2-thiophenecarboxylic acid, N-t-butyl amide
To a solution of 28 g (0.18 mol) of 5-ethyl-2-thiophenecarboxylic acid, from step 3a above, in 130 mL of methylene chloride was added a large excess (130 mL, 10 mol) of thionyl chloride, and the solution was heated at reflux for 2 hours. The solvent and excess reagent were removed by evaporation, and the residue was dissolved in 130 mL of chloroform and cooled to 0° C. To this solution was added 94 mL (0.9 mol) of t-butylamine dropwise, and the solution was stirred at reflux for 2 hours. The reaction was cooled, the solution poured into water, and the mixture extracted with ethyl acetate. The extract was washed with water and brine, dried, and concentrated. The residue was dissolved in ethyl acetate and the crude product was precipitated by addition of hexane. The crude product was collected by filtration and purified by flash chromatography over silica gel, eluting with 1:6 ethyl acetate:hexane, to afford 13.3 g (80% yield) of the title product after drying. MS 212 (M+H)+. NMR (CDCl3) δ: 7.25 (d, 1H, J=3 Hz), 6,72 (d, 1H, J=3 Hz), 5.70 (bs, 1H), 2.84 (q, 2H, J=7 Hz), 1.45 (s, 9H), 1.31 (t, 3H, J=7 Hz).

reactant | 5-ethyl-2-thiophenecarboxylic acid | 0.18 mol, 28 g | C(C)C1=CC=C(S1)C(=O)O | C7H8O2S
reactant | thionyl chloride | 10 mol, 130 mL | S(=O)(Cl)Cl | Cl2OS
reactant | t-butylamine | 0.9 mol, 94 mL | C(C)(C)(C)N | C4H11N
reactant | water | O | H2O
solvent | methylene chloride | 130 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 5-Ethyl-2-thiophenecarboxylic acid, N-t-butyl amide | 13.3 g, 80% yield | C(C)(C)(C)NC(=O)C=1SC(=CC1)CC | C11H17NOS
